US04048432
By substituting 9.5 ml. of acetic anhydride for the propionic anhydride in paragraph 1 (a) and using 200 ml. of dry pyridine, the product obtained by the procedure of paragraph 1 a) is 9-(2,3-di-O-acetyl-5O-(tert-butyldimethylsily)-β-D-arabinofuranosyl)adenine, which, on reaction with 31.3 g. of tetrabutylammonium fluoride in 300 ml. of tetrahydrofuran, following the procedure of paragraph 1 (b), gives 9-(3,5-di-O-acetyl-β-D-arabinofuranosyl)adenine. By substituting 23.4 ml. of butyryl chloride for the propionic anhydride in paragraph 1 (a) and using 17.9 g. of the silyl ether in 250 ml. of pyridine, the product obtained is 9-(2,3-di-O-butyryl-5-O-(tert-butyldimethylsilyl)-β-D-arabinofuranosyl) adenine, which on reaction with 37 g. of tetrabutylammonium fluoride in 350 ml. of tetrahydrofuran following the procedure of paragraph 1 (b) gives 9-(3,5-di-O-butyryl-β-D-arabinofuranosyl)adenine.

reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | propionic anhydride | C(CC)(=O)OC(CC)=O | C6H10O3
reactant | 9-(2,3-di-O-acetyl-5O-(tert-butyldimethylsily)-β-D-arabinofuranosyl)adenine | C(C)(=O)O[C@@H]1[C@@H](O[C@@H]([C@H]1OC(C)=O)CO[Si](C)(C)C(C)(C)C)N1C2=NC=NC(=C2N=C1)N | C20H31N5O6Si
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 9-(3,5-di-O-acetyl-β-D-arabinofuranosyl)adenine | C(C)(=O)O[C@H]1[C@@H]([C@@H](O[C@@H]1COC(C)=O)N1C2=NC=NC(=C2N=C1)N)O | C14H17N5O6
